US07098212B2
2-(5-Chloro-2-hydroxy-benzyl)-isoindole-1,3-dione
To 4-chlorophenol (2.0 g, 15.5 mmol) and chloromethylphthalamide (2.62 g, 13.4 mmol) was added zinc chloride (3 mL, 0.5 M in tetrahydrofuran, 1.5 mmol). The reaction was stirred at 90° C. for 48 hours. After cooling the reaction was diluted with methanol (15 mL) and brought to reflux. After 30 minutes the hot suspension was filtered through a medium glass frit and concentrated to an off-white solid. Methanol (50 mL) was again added and the reaction brought to reflux. After 3 hours the hot suspension was filtered through a medium glass frit and concentrated to an off-white solid. The crude product was purified via chromatography on silica gel to give the title compound (3.86 g).

reactant | 4-chlorophenol | 15.5 mmol, 2.0 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | chloromethylphthalamide | 13.4 mmol, 2.62 g | ClCC1=C(C(C(=O)N)=CC=C1)C(=O)N | C9H9ClN2O2
reactant | methanol | 15 mL | CO | CH4O
catalyst | zinc chloride | 1.5 mmol, 0.5 M, 3 mL | [Cl-].[Zn+2].[Cl-]
product | 2-(5-Chloro-2-hydroxy-benzyl)-isoindole-1,3-dione | 3.86 g | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)O | C15H10ClNO3
